US09303012B2
(2S)-1-[6-(Cyclopropylmethoxy)-5-(1-hydroxycyclobutyl)pyridine-2-carbonyl]-4,4-difluoropyrrolidine-2-carboxamide
In analogy to the procedure described in Example 127 e), 6-(cyclopropylmethoxy)-5-(1-hydroxycyclobutyl)pyridine-2-carboxylic acid (CAN 1415899-53-4, 15 mg, 57 μmol) was reacted with (S)-4,4-difluoropyrrolidine-2-carboxamide hydrochloride (CAN 426844-51-1, 10.6 mg, 57 μmol) to give the title compound (6 mg, 21%) as light yellow oil, LC-MS (UV peak area, ESI) 100%, 396.1740 [MH+].

reactant | 6-(cyclopropylmethoxy)-5-(1-hydroxycyclobutyl)pyridine-2-carboxylic acid | 57 μmol, 15 mg | C1(CC1)COC1=C(C=CC(=N1)C(=O)O)C1(CCC1)O | C14H17NO4
reactant | (S)-4,4-difluoropyrrolidine-2-carboxamide hydrochloride | 57 μmol, 10.6 mg | Cl.FC1(C[C@H](NC1)C(=O)N)F
product | (2S)-1-[6-(Cyclopropylmethoxy)-5-(1-hydroxycyclobutyl)pyridine-2-carbonyl]-4,4-difluoropyrrolidine-2-carboxamide | 6 mg, 21% | C1(CC1)COC1=C(C=CC(=N1)C(=O)N1[C@@H](CC(C1)(F)F)C(=O)N)C1(CCC1)O | C19H23F2N3O4
